US06635657B1
Preparation of 2-[1-(2-Carboxypyridin-4-yl)piperidin-4-ylmethylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide
Using a similar procedure to that described in Example 52, N-(5-chloropyridin-2-yl)-5-fluoro-2-(piperidin-4-ylmethyl)aminobenzamide (200 mg, 0.55 mmol), 4-chloropicolinic acid (130 mg, 0.83 mmol), triethylamine (111 mg, 1.10 mmol), and ethanol (4 mL) yielded 120 mg (45%) of the title compound.

reactant | N-(5-chloropyridin-2-yl)-5-fluoro-2-(piperidin-4-ylmethyl)aminobenzamide | 0.55 mmol, 200 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)NCC1CCNCC1)=O | C18H20ClFN4O
reactant | 4-chloropicolinic acid | 0.83 mmol, 130 mg | ClC1=CC(=NC=C1)C(=O)O | C6H4ClNO2
reactant | triethylamine | 1.10 mmol, 111 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-[1-(2-Carboxypyridin-4-yl)piperidin-4-ylmethylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide | 120 mg, 45% | C(=O)(O)C1=NC=CC(=C1)N1CCC(CC1)CNC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)F | C24H23ClFN5O3
